US06897231B2
B. N-{2-[3-(5-(1H-1,2,4-triazol-5-yl)(1H-indazol-3-yl))phenoxy]ethyl}(phenylmethoxy)carboxamide
Triphenylphosphine (0.694 g, 2.65 mmol), tetrahydrofuran (2.12 mL), N-(carbonylbenzyloxy)aminoethanol (0.517 g, 2.65 mmol) and diethylazodicarboxylate (0.418 mL, 2.65 mmol) were added to 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenol (0.400 g, 0.662 mmol). The mixture was stirred at room temperature for 23 h and poured into aqueous 6 N hydrochloric acid (25 mL). After stirring at ambient temperature for 4 h, the mixture was extracted with ether (3×). The aqueous fraction was added to aqueous 6 N sodium hydroxide (25 mL) and the pH adjusted to 11. The solution was extracted with ethyl acetate (3×) and the organic fractions were combined and dried over anhydrous sodium sulfate, filtered and evaporated. The residue was purified by flash chromatography on silica pretreated with 2% triethylamine/ethyl acetate followed by 50-100% ethyl acetate/hexanes. The desired fractions were washed with aqueous sodium bicarbonate and extracted with ethyl acetate which gave the title compound (0.127 g, 42% yield) contaminated with triphenylphosphine oxide. The desired compound was further purified by preparative HPLC (30-80% acetonitrile/water). 1H NMR (CD3OD) δ 8.71 (br s, 1H), 8.08 (br s, 1H), 7.67 (br s, 1H), 7.61 (d, 1H), 7.56 (s, 1H), 7.45 (t, 1H), 7.30 (m, 5H), 7.03 (m, 1H), 5.08 (s, 2H), 4.16 (t, 2H), 3.57 (t, 2H). ES-MS (m/z) 455 [M+1]+.

reactant | Triphenylphosphine | 2.65 mmol, 0.694 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-(carbonylbenzyloxy)aminoethanol | 2.65 mmol, 0.517 g | C(=O)=C(C1=CC=CC=C1)ONC(C)O | C10H11NO3
reactant | diethylazodicarboxylate | 2.65 mmol, 0.418 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenol | 0.662 mmol, 0.400 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)O | C39H33N5O2
reactant | hydrochloric acid | 6 N, 25 mL | Cl | ClH
reactant | tetrahydrofuran | 2.12 mL | O1CCCC1 | C4H8O
product | N-{2-[3-(5-(1H-1,2,4-triazol-5-yl)(1H-indazol-3-yl))phenoxy]ethyl}(phenylmethoxy)carboxamide | 0.127 g, 42% yield | N1N=CN=C1C=1C=C2C(=NNC2=CC1)C=1C=C(OCCNC(=O)OCC2=CC=CC=C2)C=CC1 | C25H22N6O3
